US04354027
A. 1-Methyl-3-(2'-cyclopropanoyldiazanyl)-6-methoxy-1H-quinoxalin-2-one
Cyclopropylcarboxylic acid chloride (6.60 g., 6.32 mmol) is added dropwise to a solution of 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one (52.6 mmol) and triethylamine (6.38 g., 63.2 mmol) in 500 ml. of dioxane and the mixture stirred at room temperature for 20 hours. The dioxane is then removed under vacuum and the residue washed with water, filtered, and dried under vacuum to give a crude yield of 12.8 g. (95%). A 4.8 g. sample of this material is recrystallized from 100 ml. of acetonitrile to obtain purified product.

reactant | Cyclopropylcarboxylic acid chloride | 6.32 mmol, 6.60 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one | 52.6 mmol | N(N)C=1C(N(C2=CC=C(C=C2N1)OC)C)=O | C10H12N4O2
reactant | triethylamine | 63.2 mmol, 6.38 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-3-(2'-cyclopropanoyldiazanyl)-6-methoxy-1H-quinoxalin-2-one | CN1C(C(=NC2=CC(=CC=C12)OC)NNC(=O)C1CC1)=O | C14H16N4O3
